US06211234B1
methyl 2-hydroxy-4-(3-phenylpropyloxy)benzoate;
methyl 2-hydroxy-4-(2-(3-indolyl)ethoxy)benzoate; methyl 2-hydroxy-4-benzyloxybenzoate, m.p. 101-102° C.; methyl 2-hydroxy-4-(2-naphthylmethoxy)benzoate; methyl 2-hydroxy-4-(1-naphthylmethoxy)benzoate; methyl 2-hydroxy-4-(3,4-methylenedioxybenzyloxy)benzoate (solid); methyl 2-hydroxy-4-(2-phenylethoxy)benzoate; methyl 2-hydroxy-4-(4-isopropylbenzyloxy)benzoate, m.p. 68-70° C.; methyl 2-hydroxy-4-(4-nitrobenzyloxy)benzoate, m.p. 178-180° C.; methyl 2-hydroxy-4-(4-fluorobenzyloxy)benzoate, m.p. 82-84° C.; methyl 2-hydroxy-4-(3,4-dichlorobenzyloxy)benzoate, m.p. 134-136° C.; methyl 2-hydroxy-4-(4-methoxybenzyloxy)benzoate; and methyl 2-hydroxy-4-(3-methoxybenzyloxy)benzoate.

reactant | methyl 2-hydroxy-4-(2-(3-indolyl)ethoxy)benzoate | OC1=C(C(=O)OC)C=CC(=C1)OCCC1=CNC2=CC=CC=C12 | C18H17NO4
reactant | methyl 2-hydroxy-4-benzyloxybenzoate | OC1=C(C(=O)OC)C=CC(=C1)OCC1=CC=CC=C1 | C15H14O4
reactant | methyl 2-hydroxy-4-(2-naphthylmethoxy)benzoate | OC1=C(C(=O)OC)C=CC(=C1)OCC1=CC2=CC=CC=C2C=C1 | C19H16O4
reactant | methyl 2-hydroxy-4-(1-naphthylmethoxy)benzoate | OC1=C(C(=O)OC)C=CC(=C1)OCC1=CC=CC2=CC=CC=C12 | C19H16O4
reactant | methyl 2-hydroxy-4-(3,4-methylenedioxybenzyloxy)benzoate | OC1=C(C(=O)OC)C=CC(=C1)OCC1=CC2=C(C=C1)OCO2 | C16H14O6
reactant | methyl 2-hydroxy-4-(2-phenylethoxy)benzoate | OC1=C(C(=O)OC)C=CC(=C1)OCCC1=CC=CC=C1 | C16H16O4
reactant | methyl 2-hydroxy-4-(4-isopropylbenzyloxy)benzoate | OC1=C(C(=O)OC)C=CC(=C1)OCC1=CC=C(C=C1)C(C)C | C18H20O4
reactant | methyl 2-hydroxy-4-(4-nitrobenzyloxy)benzoate | OC1=C(C(=O)OC)C=CC(=C1)OCC1=CC=C(C=C1)[N+](=O)[O-] | C15H13NO6
reactant | methyl 2-hydroxy-4-(4-fluorobenzyloxy)benzoate | OC1=C(C(=O)OC)C=CC(=C1)OCC1=CC=C(C=C1)F | C15H13FO4
reactant | methyl 2-hydroxy-4-(3,4-dichlorobenzyloxy)benzoate | OC1=C(C(=O)OC)C=CC(=C1)OCC1=CC(=C(C=C1)Cl)Cl | C15H12Cl2O4
reactant | methyl 2-hydroxy-4-(4-methoxybenzyloxy)benzoate | OC1=C(C(=O)OC)C=CC(=C1)OCC1=CC=C(C=C1)OC | C16H16O5
reactant | methyl 2-hydroxy-4-(3-methoxybenzyloxy)benzoate | OC1=C(C(=O)OC)C=CC(=C1)OCC1=CC(=CC=C1)OC | C16H16O5
product | methyl 2-hydroxy-4-(3-phenylpropyloxy)benzoate | OC1=C(C(=O)OC)C=CC(=C1)OCCCC1=CC=CC=C1 | C17H18O4
